US08609709B2
To a solution of [1-[{1-[4-(2-bromo-phenyl)-1H-imidazol-2-yl]-ethyl}-(3,4-dimethoxy-benzyl)-carbamoyl]-2-(4-carbamoyl-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (294 mg; 0.4 mmol) in DMF (2 mL) was added Zn(CN)2 (28 mg; 0.24 mmol). The resulting mixture was degassed with Argon for 5 min, then Pd(PPh3)4 (92 mg; 0.08 mmol) was added neat, and the system was immediately warmed to 100° C. After heating for 6 h, the reaction was cooled to rt and partitioned between EtOAc and water. The organic phase was dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude material was subjected to reverse phase HPLC (water/acetonitrile/0.1% TFA). The fractions of interest were combined, basified with saturated aqueous NaHCO3 and extracted twice with EtOAc. The EtOAc extracts were combined, dried over Na2SO4, filtered, and concentrated to afford 146 mg (54%) of desired {2-(4-carbamoyl-2,6-dimethyl-phenyl)-1-[{1-[4-(2-cyano-phenyl)-1H-imidazol-2-yl]-ethyl}-(3,4-dimethoxy-benzyl)-carbamoyl]-ethyl}-carbamic acid tert-butyl ester (HPLC: 96% @ 254 nm and 97% @ 214 nm). This sample was of sufficient quality to use in the next reaction without further purification.

reactant | [1-[{1-[4-(2-bromo-phenyl)-1H-imidazol-2-yl]-ethyl}-(3,4-dimethoxy-benzyl)-carbamoyl]-2-(4-carbamoyl-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.4 mmol, 294 mg | C(C)(C)(C)OC(NC(CC1=C(C=C(C=C1C)C(N)=O)C)C(N(CC1=CC(=C(C=C1)OC)OC)C(C)C=1NC=C(N1)C1=C(C=CC=C1)Br)=O)=O | C37H44BrN5O6
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.24 mmol, 28 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.08 mmol, 92 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {2-(4-carbamoyl-2,6-dimethyl-phenyl)-1-[{1-[4-(2-cyano-phenyl)-1H-imidazol-2-yl]-ethyl}-(3,4-dimethoxy-benzyl)-carbamoyl]-ethyl}-carbamic acid tert-butyl ester | 146 mg | C(C)(C)(C)OC(NC(CC1=C(C=C(C=C1C)C(N)=O)C)C(N(CC1=CC(=C(C=C1)OC)OC)C(C)C=1NC=C(N1)C1=C(C=CC=C1)C#N)=O)=O | C38H44N6O6
